US07671221B2
5-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-4′-(dimethylcarbamoyl)biphenyl-2-carboxylic acid (47 mg, 0.10 mmol) and 75 μL of a 2.0 M solution of methylamine in tetrahydrofuran (0.15 mmol) were dissolved in DMF (1.0 mL) containing Et3N (28 μL, 0.20 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (42 mg, 0.11 mmol) was added to the mixture and the resulting solution was allowed to stir for 3 hours. The mixture was filtered and purified by reverse phase HPLC to yield 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-N2,N4′,N4′-trimethylbiphenyl-2,4′-dicarboxamide (5.0 mg, 10%). ESI-MS m/z calc. 485.5, found 486.5 (M+1)+; retention time 2.54 minutes.

reactant | 5-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-4′-(dimethylcarbamoyl)biphenyl-2-carboxylic acid | 0.10 mmol, 47 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=C2)C2=CC=C(C=C2)C(N(C)C)=O)C(=O)O | C27H24N2O6
reactant | methylamine | CN | CH5N
reactant | tetrahydrofuran | 0.15 mmol | O1CCCC1 | C4H8O
reactant | Et3N | 0.20 mmol, 28 μL | CCN(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.11 mmol, 42 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-N2,N4′,N4′-trimethylbiphenyl-2,4′-dicarboxamide | 5.0 mg, 10% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=C2)C2=CC=C(C=C2)C(=O)N(C)C)C(=O)NC | C28H27N3O5
